US07273878B2
To 100 ml of N,N-dimethylformamide, 4.56 g (20 mmol) of 6,6-difluoro-5-methyl-5-hexenyl methanesulfonate and 4.70 g (26 mmol) of sodium dimethyldithiocarbamate dihydrate were dissolved, followed by stirring at 100° C. for 3 hours. The reaction liquid was poured into water and extracted with ethyl acetate. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentrating under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:10) to obtain 2.60 g (yield: 51%) of 6,6-difluoro-5-methyl-5-hexenyl N,N-dimethyldithiocarbamate.

reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | 6,6-difluoro-5-methyl-5-hexenyl methanesulfonate | 20 mmol, 4.56 g | CS(=O)(=O)OCCCCC(=C(F)F)C | C8H14F2O3S
reactant | sodium dimethyldithiocarbamate dihydrate | 26 mmol, 4.70 g | O.O.CN(C([S-])=S)C.[Na+]
solvent | water | O | H2O
product | 6,6-difluoro-5-methyl-5-hexenyl N,N-dimethyldithiocarbamate | 2.60 g, yield: 51% | CN(C(SCCCCC(=C(F)F)C)=S)C | C10H17F2NS2
